US04288624
1-Dimethylamino-2-(3-trifluoromethylphenyl)-4-trifluoromethylthio-1-butene-3-one
Two hundred ml. of dry tetrahydrofuran was combined with 8.1 g. of diisopropylamine, and the mixture was chilled to -70° under a nitrogen stream. A 36 ml. portion of 2.2-molar n-butyllithium in hexane was added, and the mixture was stirred for 5 minutes. Then a suspension of 18.8 g. of 1-dimethylamino-2-(3-trifluoromethylphenyl)-1-butene-3-one in 100 ml. of tetrahydrofuran was added at a rate such that the temperature of the mixture remained below -60°. The mixture was then stirred for 30 minutes more, and to it was added 10 g. of trifluoromethylsulfenyl chloride in 40 ml. of tetrahydrofuran, maintaining the temperature of the mixture below -60°. After the addition was complete, the reaction mixture was stirred for 15 minutes more, and was then allowed to warm to 10° over a period of 1 hour. The reaction was then quenched by the addition of saturated potassium dihydrogen phosphate solution and was diluted with water and diethyl ether. The organic layer was separated, dried over magnesium sulfate and evaporated to dryness under vacuum to obtain a dark oil which solidified on standing. The oil was chromatographed on a 500 g. silica gel column, with 1:9 ethyl acetate:dichloromethane as the eluting solvent. The product-containing fractions were combined and evaporated to dryness under vacuum to obtain 4.3 g. of the expected product, which was identified by nmr (CDCl3): δ7.3-7.7 (m, 5H); 3.7 (s, 2H); 2.65 (s, 6H).

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.2-molar | C(CCC)[Li]
reactant | 1-dimethylamino-2-(3-trifluoromethylphenyl)-1-butene-3-one | CN(C=C(C(C)=O)C1=CC(=CC=C1)C(F)(F)F)C | C13H14F3NO
reactant | trifluoromethylsulfenyl chloride | FC(SCl)(F)F | CClF3S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Dimethylamino-2-(3-trifluoromethylphenyl)-4-trifluoromethylthio-1-butene-3-one | CN(C=C(C(CSC(F)(F)F)=O)C1=CC(=CC=C1)C(F)(F)F)C | C14H13F6NOS
